US04994363
Step 4: synthesis of N-methyl-N-octadecyl-α-(4-butoxycarbonylaminophenoxy)methyl-4-nitrocinnamic acid amide
20 g of N-methyl-N-octadecyl-α-bromomethyl-4-nitrocinnamic acid amide, 8 g of 4-t-butoxycarbonylaminophenol, 6 g of potassium carbonate, and 0.1 g of sodium iodide were mixed with 70 ml of acetone. The mixture was then heated under reflux for 5 hours.

reactant | N-methyl-N-octadecyl-α-bromomethyl-4-nitrocinnamic acid amide | 20 g | CN(C(C(=CC1=CC=C(C=C1)[N+](=O)[O-])CBr)=O)CCCCCCCCCCCCCCCCCC | C29H47BrN2O3
reactant | 4-t-butoxycarbonylaminophenol | 8 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)O | C11H15NO3
reactant | potassium carbonate | 6 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.1 g | [I-].[Na+]
reactant | acetone | 70 ml | CC(=O)C | C3H6O
product | N-methyl-N-octadecyl-α-(4-butoxycarbonylaminophenoxy)methyl-4-nitrocinnamic acid amide | CN(C(C(=CC1=CC=C(C=C1)[N+](=O)[O-])COC1=CC=C(C=C1)NC(=O)OCCCC)=O)CCCCCCCCCCCCCCCCCC | C40H61N3O6
